US04990505
(a) 1-[2-[(6-Bromohexyl)oxy]ethyl]-2-(methylthio)benzene
2-(Methylthio)benzeneethanol (2.0 g) and 1,6-dibromohexane (9.31 g) were stirred rapidly at room temperature with tetrabutylammonium bisulphate (0.34 g) and 12.5 M aqueous sodium hydroxide (11 ml) for 16 h. The mixture was diluted with water (45 ml), extracted with ER (3×55 ml) and the combined organic extracts were washed consecutively with water (45 ml) and brine (45 ml), dried and evaporated. The residual oil (8.84 g) was purified by [FCS] using ER-cyclohexane (0:100→2:98) as eluent to give the title compound. T.l.c. (Cyclohexane--ER, 79:1) Rf 0.17.

reactant | 2-(Methylthio)benzeneethanol | 2.0 g | CSC1=C(C=CC=C1)CCO | C9H12OS
reactant | 1,6-dibromohexane | 9.31 g | BrCCCCCCBr | C6H12Br2
reactant | sodium hydroxide | 12.5 M, 11 ml | [OH-].[Na+]
catalyst | tetrabutylammonium bisulphate | 0.34 g | S([O-])(O)(=O)=O.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 45 ml | O | H2O
product | 1-[2-[(6-Bromohexyl)oxy]ethyl]-2-(methylthio)benzene | BrCCCCCCOCCC1=C(C=CC=C1)SC | C15H23BrOS
